US08609647B2
(12) Optically-Active Compound of 4-(1,7-diazaspiro[4.5]dec-7-yl)-7H-pyrrolo[2,3-d]pyrimidine
To a solution of 7-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1,7-diazaspiro[4.5]decane-1-carboxylic acid tert-butyl ester (60 mg) in chloroform (1.0 ml) were added 4M hydrochloric acid-ethyl acetate (1.5 ml) and 2M hydrochloric acid-methanol (0.5 ml), and the mixture was stirred at room temperature for 2.5 hours. The reaction mixture was concentrated under reduced pressure, and then azeotroped with toluene. The residue was neutralized by the addition of 4M aqueous sodium hydroxide solution, and thereto was added saturated aqueous sodium chloride solution. The mixture was extracted with chloroform. The separated organic solvent was concentrated under reduced pressure to give the titled compound (30 mg).

reactant | 7-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1,7-diazaspiro[4.5]decane-1-carboxylic acid tert-butyl ester | 60 mg | C(C)(C)(C)OC(=O)N1CCCC12CN(CCC2)C=2C1=C(N=CN2)NC=C1 | C19H27N5O2
reactant | hydrochloric acid ethyl acetate | 4M, 1.5 ml | Cl.C(C)(=O)OCC
reactant | hydrochloric acid methanol | 2M, 0.5 ml | Cl.CO
solvent | chloroform | 1.0 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(1,7-diazaspiro[4.5]dec-7-yl)-7H-pyrrolo[2,3-d]pyrimidine | 30 mg | N1CCCC12CN(CCC2)C=2C1=C(N=CN2)NC=C1 | C14H19N5
